US05463077
1.5 cm3 of triethylamine and then 1.6 g of (2-methoxyphenyl)-acetyl chloride are added to a solution of 1.5 g of (3aS,7aR)-4,4-diphenyl-7-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-isoindole hydrochloride in 20 cm3 of methylene chloride, cooled to 0° C. The mixture is stirred at room temperature for 15 hours; the reaction mixture is washed with twice 40 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed over a Merck silica gel column (particle size 0.04-0.06 mm, diameter 3.6 cm, height 25 cm) by eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (75/25 by volume) and collecting fractions of 25 cm3. Fractions 14 to 28 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The yellow foam obtained is recrystallised from 10 cm3 of cyclohexane to give 0.38 g of (3aS,7aR)-4,4-diphenyl-2-[(2-methoxyphenyl)-acetyl]-7-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-isoindole in the form of a beige solid which melts at 142° C.

reactant | triethylamine | 1.5 cm3 | C(C)N(CC)CC | C6H15N
reactant | (2-methoxyphenyl)-acetyl chloride | 1.6 g | COC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO2
reactant | (3aS,7aR)-4,4-diphenyl-7-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-isoindole hydrochloride | 1.5 g | Cl.C1(=CC=CC=C1)C1([C@H]2CNC[C@H]2C(=CC1)C1=C(C=CC=C1)OC)C1=CC=CC=C1
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
product | (3aS,7aR)-4,4-diphenyl-2-[(2-methoxyphenyl)-acetyl]-7-(2-methoxyphenyl)-2,3,3a,4,5,7a-hexahydro-isoindole | 0.38 g | C1(=CC=CC=C1)C1([C@H]2CN(C[C@H]2C(=CC1)C1=C(C=CC=C1)OC)C(CC1=C(C=CC=C1)OC)=O)C1=CC=CC=C1 | C36H35NO3
